US08084449B2
N-{[1,6-Diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N′-[(3′-formyl-6-methyl-3-biphenylyl)methyl]-2,6-pyridinedicarboxamide (1.85 g, 2.80 mmol) and 1,1-dimethylethyl 1-piperazinecarboxylate (1.055 g, 5.61 mmol) were dissolved in 1,2-dichloroethane (30 mL) and acetic acid (0.177 ml, 3.08 mmol) was added. The mixture was stirred for 30 minutes and then MP-Triacetoxyborohydride (3.61 g, 8.41 mmol) was added. The mixture was stirred overnight. It was then filtered through a glass fiber filter paper and washed 2× with 20 mL of DCE. The solvent was evaporated and the residue was taken up in methylene chloride and absorbed on Isolute® Sorbent and purified on a Combiflash on an 80 g silica column eluted with 0-10% MeOH/CH2Cl2. Product fractions were combined and concentrated under vacuum to give 1,1-dimethylethyl 4-[(5′-{[({6-[({[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)carbonyl]-2-pyridinyl}carbonyl)amino]methyl}-2′-methyl-3-biphenylyl)methyl]-1-piperazinecarboxylate (1.8 g, 2.140 mmol, 76% yield) as a white solid. LC-MS m/z 830 (M+H)+, 0.86 min (ret time).

reactant | N-{[1,6-Diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N′-[(3′-formyl-6-methyl-3-biphenylyl)methyl]-2,6-pyridinedicarboxamide | 2.80 mmol, 1.85 g | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CNC(=O)C2=NC(=CC=C2)C(=O)NCC=2C=C(C(=CC2)C)C2=CC(=CC=C2)C=O)CC | C38H41N7O4
reactant | 1,1-dimethylethyl 1-piperazinecarboxylate | 5.61 mmol, 1.055 g | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | acetic acid | 3.08 mmol, 0.177 ml | C(C)(=O)O | C2H4O2
reactant | Triacetoxyborohydride | 8.41 mmol, 3.61 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O
solvent | 1,2-dichloroethane | 30 mL | ClCCCl | C2H4Cl2
product | 1,1-dimethylethyl 4-[(5′-{[({6-[({[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)carbonyl]-2-pyridinyl}carbonyl)amino]methyl}-2′-methyl-3-biphenylyl)methyl]-1-piperazinecarboxylate | 2.140 mmol, 1.8 g, 76% yield | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CNC(=O)C2=CC=CC(=N2)C(=O)NCC=2C=CC(=C(C2)C2=CC(=CC=C2)CN2CCN(CC2)C(=O)OC(C)(C)C)C)CC | C47H59N9O5
